US07612099B2
5-Benzyl-3-[(5-fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5H-furan-2-one
Using general procedure C, 5-benzyl-4-hydroxy-5H-furan-2-one (Lit. 13) was reacted with benzaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as colorless solid. MS: 426.1 ([M−H]−).

reactant | 5-benzyl-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=CC(O1)=O)O | C11H10O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | 5-Benzyl-3-[(5-fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=C(C(O1)=O)C(C1=CC=CC=C1)C=1NC2=CC=C(C=C2C1C)F)O | C27H22FNO3
